US04420614
α-(Dimethylamino)-3-phenoxybenzeneacetonitrile (1)
A solution of dimethylamine in water (5 ml of a 26% w/v solution; 30 mmole) and water (5 ml) was neutralised with concentrated hydrochloric acid. 3-Phenoxybenzaldehyde (3.96 g, 20 mmole) was added to the stirred solution followed by sodium cyanide (1.5 g, 30 mmole) and "Teric" N8 (5 drops of a 10% aqueous solution; "Teric" is an ICI Australia Limited Trade Mark and "Teric" N8 is the product of condensation of nonylphenol and ethylene oxide in the mole ratio of 1:8). The mixture was stirred vigorously for a period of 1 hour and then dichloromethane (50 ml) was added. The organic phase was separated, washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure to give the title compound as a pale yellow oil (5.2 g). Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 2.3 (6H, s, N(CH3)2); 4.8 (1H, s, CH); 6.9-7.6 (9H, m, aromatic protons).

reactant | dimethylamine | CNC | C2H7N
reactant | hydrochloric acid | Cl | ClH
reactant | 3-Phenoxybenzaldehyde | 20 mmole, 3.96 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | sodium cyanide | 30 mmole, 1.5 g | [C-]#N.[Na+]
reactant | nonylphenol | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | α-(Dimethylamino)-3-phenoxybenzeneacetonitrile | 5.2 g | CN(C(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1)C | C16H16N2O
